US09226922B2
To a solution of 6-chloro-1H-pyrazolo[4,3-c]pyridin-3(2H)-one (2.64 g, 15.57 mmol) in pyridine (10 mL) and water (14 mL) was added ethyl chloroformate (3.38 g, 31.1 mmol) drop-wise at 0° C. The reaction was removed from the ice bath and was stirred at room temperature overnight. The reaction mixture was filtered and the solid rinsed with water to afford ethyl 6-chloro-3-oxo-2,3-dihydro-1H-pyrazolo[4,3-c]pyridine-1-carboxylate, which was carried onto the next step without further purification. MS ESI calc'd. for C9H8ClN3O3 [M+1]+242. found 242.

reactant | 6-chloro-1H-pyrazolo[4,3-c]pyridin-3(2H)-one | 15.57 mmol, 2.64 g | ClC1=CC2=C(C=N1)C(NN2)=O | C6H4ClN3O
reactant | ethyl chloroformate | 31.1 mmol, 3.38 g | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 14 mL | O | H2O
product | ethyl 6-chloro-3-oxo-2,3-dihydro-1H-pyrazolo[4,3-c]pyridine-1-carboxylate | ClC1=CC2=C(C=N1)C(NN2C(=O)OCC)=O | C9H8ClN3O3
